US07812022B2
Step B: 2,2,2-Trifluoro-N-{2-fluoro-5-[(trimethylsilyl)ethynyl]phenyl}acetamide
To an oven-dried flask under N2 was added N-(5-bromo-2-fluorophenyl)-2,2,2-trifluoroacetamide (5.6 g, 20 mmol), anhydrous degassed THF (200 mL), dichlorobis(triphenylphosphine)palladium(II) (1.7 g, 2.5 mmol), copper(I) iodide (0.28 g, 1.5 mmol), and trimethylsilylacetylene (7.0 mL, 50 mmol). Next, TEA (27 mL, 197 mmol) was added dropwise and the resulting mixture was heated at 60° C. overnight. The crude reaction mixture was adsorbed to silica gel and purified by column chromatography to afford the desired product (5.3 g, 89%) as an off white solid. ES-LC/MS m/z=302 [M−H]−.

reactant | N-(5-bromo-2-fluorophenyl)-2,2,2-trifluoroacetamide | 20 mmol, 5.6 g | BrC=1C=CC(=C(C1)NC(C(F)(F)F)=O)F | C8H4BrF4NO
reactant | trimethylsilylacetylene | 50 mmol, 7.0 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 2.5 mmol, 1.7 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.5 mmol, 0.28 g | [Cu]I
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-N-{2-fluoro-5-[(trimethylsilyl)ethynyl]phenyl}acetamide | 5.3 g, 89% | FC(C(=O)NC1=C(C=CC(=C1)C#C[Si](C)(C)C)F)(F)F | C13H13F4NOSi
